US06897224B2
1-(1,2-Dihydroxyethyl)-5-nitroquinoline
336 mg (2.5 mmol) of N-methylmorpholine-N-oxide hydrate and 10.22 ml of osmium tetroxide solution in isopropanol are added at 0° C. to a solution that consists of 3.18 g (15.88 mmol) of 5-nitro-2-vinylquinoline in 140 ml of acetone and 21 ml of water, and the reaction mixture is stirred for 24 hours at room temperature. Then, the solvent is removed in a vacuum, and the residue is taken up in ethyl acetate. The organic phase is washed with water and saturated sodium chloride solution. The aqueous phase is extracted repeatedly with dichloromethane, diethyl ether and ethyl acetate. The combined organic phases are dried on sodium sulfate. After removal of the solvent and purification of silica gel with hexane-ethyl acetate (0-100%) as well as with ethyl acetate-methanol (0-20%), 1.64 g (44% of theory) of the product is obtained.

reactant | N-methylmorpholine-N-oxide hydrate | 2.5 mmol, 336 mg | O.C[N+]1(CCOCC1)[O-]
reactant | 5-nitro-2-vinylquinoline | 15.88 mmol, 3.18 g | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)C=C | C11H8N2O2
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | acetone | 140 ml | CC(=O)C | C3H6O
solvent | water | 21 ml | O | H2O
catalyst | osmium tetroxide | 10.22 ml | [Os](=O)(=O)(=O)=O
product | 1-(1,2-Dihydroxyethyl)-5-nitroquinoline | OC(CO)N1CC=CC2=C(C=CC=C12)[N+](=O)[O-] | C11H12N2O4
